US07332501B2
a) 2-Acetylamino-2-cyclopropanecarbonyl-malonic acid diethyl ester
To a solution of 6 eq KOt-Bu in THF at room temperature was added 6 eq 2-acetylamino-malonic acid diethyl ester and after 5 min 1 eq cyclopropane-carbonylchloride. After 15 min, the mixture was concentrated and partitioned between EtOAc and H2O. The organic layer was concentrated to give the desired product in 60% yield.

reactant | KOt-Bu | 6 eq | CC(C)(C)[O-].[K+]
reactant | 2-acetylamino-malonic acid diethyl ester | 6 eq | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | cyclopropane-carbonylchloride | 1 eq | C1(CC1)C(=O)Cl | C4H5ClO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Acetylamino-2-cyclopropanecarbonyl-malonic acid diethyl ester | 60% yield | C(C)OC(C(C(=O)OCC)(C(=O)C1CC1)NC(C)=O)=O | C13H19NO6
